US08426447B2
A 10-mL pear flask was charged with (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (111 mg, 0.316 mmol), cesium carbonate (113 mg, 0.348 mmol), and DMF (1580 μL). The resulting mixture was stirred for 5 min, then placed in an ice-bath for 5 min. 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (124 mg, 0.348 mmol) was added, the ice-bath was removed and stirring was continued for 1 hour. The mixture was partitioned between water (15 mL) and EtOAc (15 mL), with a small amount of brine to break up an emulsion. The layers were separated, and the aqueous layer was extracted with EtOAc (15 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was chromatographed on a 12-g Redi-Sep column eluting with 0-6% MeOH/DCM to give (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate as a feathery-white solid.

reactant | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.316 mmol, 111 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)O)O | C19H17N3O4
reactant | cesium carbonate | 0.348 mmol, 113 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 0.348 mmol, 124 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DMF | 1580 μL | CN(C)C=O | C3H7NO
product | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC(C)(C)O)(F)F | C20H16F3N3O6S
